US04024187
m-Nitroacetophenone [123.8 g., 0.75 mole, 99% purity by gas-liquid chromatography (GLC)], water (450 ml.) and Raney nickel catalyst (40 g. (wet) Grace No. 4200) was charged to a 1 liter Parr stirring autoclave. The reaction mass was stirred at 100 psi constant hydrogen pressure while the temperature was adjusted slowly to 99° C (the exotherm of hydrogenation contributed initially to the temperature increase from ambient, 26° C). After 4 hours there was no further evidence of hydrogen absorption. The hydrogenate was filtered at 60°-70° C and the clear, light amber colored filtrate was cooled to 10° C with stirring. After stirring one hour, the original filtrate was again filtered to give 54.5 g. of m-amino-α-methylbenzyl alcohol (53.0% yield) which was 100% pure by GLC. The filtrate was evaporated under vacuum to leave a residue of 42.1 g. which was 100% m-amino-α-methylbenzyl alcohol by GLC. Total yield of 96.6 g. (94.0% yield).

reactant | m-Nitroacetophenone | 0.75 mole, 123.8 g | [N+](=O)([O-])C=1C=C(C=CC1)C(C)=O | C8H7NO3
reactant | hydrogen | [H][H] | H2
catalyst | Raney nickel | 40 g | [Ni] | Ni
solvent | water | 450 ml | O | H2O
product | m-amino-α-methylbenzyl alcohol | 53.0% yield | NC=1C=C(C(C)O)C=CC1 | C8H11NO
